US07449467B2
Methyl (3S)-3-[(tert-Butoxycarbonyl)amino]-1-(1-hydroxy-1-methylethyl)cyclopentanecarboxylate
Methyl (4S)-4-[(tert-butoxycarbonyl)amino]-1-(1-hydroxy-1-methylethyl)cyclopent-2-ene-1-carboxylate (1.4 g, 4.7 mmol) was dissolved in ethanol (30 mL) in a Parr flask and purged with N2. 10% Palladium on carbon (0.14 g) was added and the mixture was shaken overnight under nitrogen at 50 psi. The mixture was filtered through celite, washed with methylene chloride and concentrated to give the desired product (1.06 g, 86%).

reactant | Methyl (4S)-4-[(tert-butoxycarbonyl)amino]-1-(1-hydroxy-1-methylethyl)cyclopent-2-ene-1-carboxylate | 4.7 mmol, 1.4 g | C(C)(C)(C)OC(=O)N[C@@H]1C=CC(C1)(C(=O)OC)C(C)(C)O | C15H25NO5
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | Methyl (3S)-3-[(tert-Butoxycarbonyl)amino]-1-(1-hydroxy-1-methylethyl)cyclopentanecarboxylate | 1.06 g, 86% | C(C)(C)(C)OC(=O)N[C@@H]1CC(CC1)(C(=O)OC)C(C)(C)O | C15H27NO5
